Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ - Endoscopic ultrasound with fine needle aspiration

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a history of HLD, 
gallstones, and recurrent HSV rash who presents with abdominal 
pain. The pain began 2 weeks ago in the epigastric area, became 
band-like in her upper abdomen, and then became diffuse 
abdominal pain. The pain was intermittent, ___ at its worst, 
not alleviated by anything, worse with food, and radiating to 
her back. She had eaten a hamburger the day before. She endorses 
hot and cold chills, nausea but no vomiting, constipation, and 
nonbloody diarrhea.

When the pain began, she initially presented to ___, where 
she had an ultrasound and CT scan and was diagnosed with 
cholelithiasis without inflammation. Her symptoms improved so 
she did not pursue scheduling of cholecystectomy. However, this 
past weekend, the pain and nausea began again and persisted, 
prompting her to visit HCA on the day of admission, where she 
was referred to the ___ ED for possible cholecystitis.

In the ED, initial VS were: 98.6, 60, 132/61, 14, 97% RA. Labs 
were remarkable for WBC 10.1, creat 0.6, ALT 781, AST 1044, alk 
phos 143, tbili 1.3, lipase 28. Her exam was notable for 
tenderness to palpation of epigastric and RUQ area with no 
rebound or guarding. She had a RUQ U/S, which showed 
cholelithiasis without evidence of cholecystitis. She was 
evaluated by Surgery, who recommended admission to Medicine for 
possible ERCP in the morning. She was given IV zofran and IV 
morphine. VS on transfer were 98.7, 68, 98/43, 16, 98% RA.

On the floor, VS were 98.5, 108/57, 63, 18, 97% RA. She reported 
that her pain had improved tremendously with morphine in the ED, 
but she tried to drink some water with return of her pain. She 
also reports that she started taking valtrex on ___ for a 
vesicular rash on her back. She has ___ episodes per year of a 
similar rash on her back for many years now. The rash is 
minimally painful and slightly pruritic. At times the rash 
appears on her legs, genitals, or mouth but usually appears on 
her back. She reports that the rash has been scraped in the 
past, and she was told it was HSV. She takes valtrex, which 
effectively reduces the duration, frequency, and severity of the 
rash.

ROS:  
(+) Per HPI
(-) Denies fever, recent weight change, headache, sinus 
tenderness, rhinorrhea or congestion, oral lesions, cough, SOB, 
chest pain or tightness, palpitations, dysuria, arthralgias or 
myalgias.
 
Past Medical History:
- Hypothyroidism  
- Hyperlipidemia  
- De Quervain tenosynovitis  
- Status post breast biopsy in ___  
- Status post tonsillectomy in childhood.  
- Left first toe fracture in college due to stepping on a shoe  
 
Social History:
___
Family History:
- Grandmother: stroke, gallstones  
- Mother: breast cancer  
- Father: AAA
 
Physical ___:
ADMISSION PHYSICAL EXAM:
- VS: Tmax/Tcurrent 98.2/98.9, 106/52 (94-109/52-57), 56 
(56-75), 18, 95% RA (95-97%)
- I/O: NPO + 1000IV/NR
- Yesterday's I/O: sips/500 GU
- 24-hr I/O: 1000 in/500 out
- General: alert; no acute distress; laying quietly in bed
- HEENT: PERRL; sclera anicteric; MMM; nonerythematous 
oropharynx; no oral lesions
- Neck: supple; no LAD
- Lungs: CTAB; no wheezes, rales, rhonchi  
- CV: RRR; normal S1 + S2; no murmurs, rubs, gallops  
- Abdomen: +BS in all 4 quadrants; soft; mild tenderness of RUQ 
with deep palpation; non-distended; negative ___ sign
- GU: no foley  
- Extremities: WWP; 2+ radial, DP, and ___ pulses b/l; no 
clubbing, cyanosis, or edema  
- Neuro: CN ___ intact; motor function grossly normal  
- Skin: clear fluid-filled vesicle on right lower back with 
surrounding erythema; no jaundice

DISCHARGE PHYSICAL EXAM:
Objective: VS Tm 99 Tc 98.9 HR 61 BP 11.53 R18 O2 Sat 97 RA 
HEENT: PERRL; sclera anicteric;
- Neck: supple
- Lungs: CTAB; no wheezes, rales, rhonchi  
- CV: RRR; normal S1 + S2; no murmurs, rubs, gallops  
- Abdomen: soft; mild tenderness of RUQ with deep palpation; 
non-distended; negative ___ sign
- GU: no foley  
- Extremities: WWP; no clubbing, cyanosis, or edema  
- Neuro: motor function grossly normal  
- Skin: no jaundice
 
Pertinent Results:
ADMISSION LABS:
___ 05:20PM BLOOD WBC-10.1 RBC-4.90 Hgb-14.7 Hct-42.5 
MCV-87 MCH-29.9 MCHC-34.5 RDW-13.0 Plt ___
___ 05:20PM BLOOD Neuts-87.7* Lymphs-8.3* Monos-2.9 Eos-0.5 
Baso-0.5
___ 05:20PM BLOOD ___ PTT-31.8 ___
___ 05:20PM BLOOD Plt ___
___ 05:20PM BLOOD Glucose-136* UreaN-14 Creat-0.6 Na-141 
K-4.5 Cl-105 HCO3-26 AnGap-15
___ 05:20PM BLOOD ALT-781* AST-1044* AlkPhos-143* 
TotBili-1.3
___ 05:20PM BLOOD Lipase-28
___:20PM BLOOD Albumin-4.4
___ LIVER OR GALLBLADDER US
FINDINGS:  
The liver is normal in echotexture and size without focal 
lesion. Pancreas appears normal though the tail is obscured from 
view. The main portal vein demonstrates patency with hepatopetal 
flow. The common bile duct is normal in caliber measuring up to 
4 mm in diameter. Multiple gallstones are seen within the 
gallbladder. Sonographic ___ sign could not be assessed due 
to patient medicated status. There is no pericholecystic fluid 
or evidence of gallbladder wall edema. Limited views of the 
right kidney are normal. There is no ascites.  
IMPRESSION:  
Cholelithiasis without evidence of cholecystitis. 

INTERIM LABS
___ 07:50AM BLOOD ALT-713* AST-193* AlkPhos-142* 
TotBili-0.5
___ 12:50PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE 
HBcAb-NEGATIVE HAV Ab-NEGATIVE
___ 07:50AM BLOOD IgG-827
___ 12:50PM BLOOD HIV Ab-NEGATIVE
___ 12:50PM BLOOD HCV Ab-NEGATIVE

___ CYTOLOGY:
                        CYTOLOGY REPORT - Final
Specimen(s) Submitted:  FINE NEEDLE ASPIRATION, lymph node 
--periporta
Diagnosis
Fine Needle Aspiration, site:   ___ lymph node
NEGATIVE FOR MALIGNANT CELLS.
Polymorphous lyphocytes consistent with lymph node sampling.

PENDING
___ 09:04AM BLOOD Smooth-PND
___ 09:04AM BLOOD ___

 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with a history of HLD, 
gallstones, and recurrent HSV rash who presents with abdominal 
pain.

ACUTE DIAGNOSES:

# Abdominal pain:
Given her history of gallstones and worsening of pain with 
eating (especially after fatty food), the most likely cause of 
the patient's abdominal pain is biliary colic and intermittent  
choledocholithiasis. However, there was no common bile duct 
stone or dilation seen on RUQ ultrasound + endoscopic US, and 
she has normal WBC, no fevers, and no evidence of cholecystitis 
on exam (negative ___ sign). She has markedly elevated ALT 
and AST levels on admission which subsequently trended down and 
were thought to be most likely due to a transient obstruction by 
a passed stone. 

Antibiotics were not indicated given the low suspicion for 
cholecystitis (afebrile, normal WBC, no ultrasound findings). 
Endoscopic ultrasound was obtained and revealed no evidence of 
choledocholithiasis. The patient was evaluated by Surgery and 
opted to schedule a cholecystectomy in the outpatient setting 
given the resolution of her symptoms and downtrending LFTs.

# Transaminitis:
most likely due to a transient obstruction by a passed stone. 
Work-up for other less likely causes of LFT abnormality included 
serologies for HAV, HBV and HCV which were negative. Serology 
for 
auto-immune hepatitis was still pending at discharge. Valtrex 
may cause hepatitis but given that she has used it multiple 
times in the past without problems, it is unlikely to be the 
cause of her current transaminitis. However, given that her rash 
was already resolving, Valtrex was discontinued.

On discharge ALT was 713, AST was 193, AP was 142, and Tbili was 
0.5. ___, IgG, and anti-smooth muscle antibodies were obtained 
and pending at the time of discharge.
 
# Rash:
The most likely cause is recurrent HSV, given that her rash has 
been scraped in the past and she was told it was HSV. She was 
recently started on Valtrex as an outpatient and has taken this 
multiple times in the past during her episodes of rash. Other 
diagnoses to consider include zoster (unlikely given that she is 
immunocompetent).
Given h/o recurrent multi-dermatomal recurrences HIV test was 
obtained and found to be negative.

# Periportal lymphadenopathy: Some periportal lymphadenopathy 
was noted on endoscopic US and sampled by ___ for cytology which 
showed normal polymorphic lymphocytes.

CHRONIC DIAGNOSES:

# Hypothyroidism:
The patient was continued on her home levothyroxine 175 mcg 
daily.

TRANSITIONAL ISSUES:
# Abdominal pain:
Cholecystectomy should be scheduled in the outpatient setting.

# Transaminitis:
___, IgG, and anti-smooth muscle antibodies should be followed 
up in the outpatient setting.

 
Medications on Admission:
1. Levothyroxine Sodium 175 mcg PO DAILY 
2. ValACYclovir Dose is Unknown  PO Q12H 

 
Discharge Medications:
1. Levothyroxine Sodium 175 mcg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: cholelithiasis with intermittent 
choledocholithiasis, modereate transaminitis
Secondary diagnosis: recurrent herpes simplex virus rash
Tertiary diagnosis: hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for abdominal pain secondary 
to gallstones. You were treated with intravenous morphine and 
zofran and underwent endoscopic ultrasound showing no biliary 
stones. You were evaluated by Surgery, who recommended an 
outpatient laparascopic cholecystectomy to remove your 
gallbladder. You also had liver enzyme elevations and work-up 
thus far has been unrevealing, potentially this was related to 
your biliary obstruction issues. We recommend close follow-up 
with your primary care physician.
 
Followup Instructions:
___